US07989457B2
Step A. 1-(4′-Trifluoromethyl-biphenyl-4-yl)-heptan-1-ol
Add hexyl magnesium bromide (2.0M in ethyl ether, 8 mL, 16 mmol) to 4′-trifluoromethyl-biphenyl-4-carbaldehyde (2.0 g, 8 mmol) (prepared in a manner substantially similar to preparation 25, or other methods known in the art) in tetrahydro-furan (30 mL) at 0° C. under inert atmosphere. Stir 1.5 hours. Quench reaction with saturated solution of ammonium chloride, dilute with ethyl acetate. Wash organic phase with water then saturated sodium chloride solution. Dry organic fraction with Na2SO4, filter, and concentrate under reduced pressure. Purify on silica gel chromatography (0-30% Ethyl acetate/hexanes gradient) to provide 1.95 g of title compound (73%).

reactant | hexyl magnesium bromide | 16 mmol, 2.0M, 8 mL | C(CCCCC)[Mg]Br
reactant | 4′-trifluoromethyl-biphenyl-4-carbaldehyde | 8 mmol, 2.0 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C=O)(F)F | C14H9F3O
reactant | water | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydro-furan | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4′-Trifluoromethyl-biphenyl-4-yl)-heptan-1-ol | 1.95 g, 73% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCCCCC)O)(F)F | C20H23F3O
